US03952044
1.20 Grams of methyl p-tolylthiomethyl sulfoxide was dissolved in 15 ml of THF, and added with 165 mg of sodium hydride under cooling with ice, followed by stirring for an hour at room temperature. Then 1 ml of benzonitrile was added to the solution, and stirred for 16.5 hours at room temperature and for 5 hours at 60°C., followed by addition of methylene chloride and 2 ml of water. After drying with Glauber's salt and filtration, the filtrate was concentrated under reduced pressure. The residue was washed with cyclohexane to obtain 1.212 g of 1-methylsulfinyl-1-(p-tolylthio)-2-amino-2-phenylethylene.

reactant | methyl p-tolylthiomethyl sulfoxide | C1(=CC=C(C=C1)SCS(=O)C)C | C9H12OS2
reactant | sodium hydride | 165 mg | [H-].[Na+]
reactant | benzonitrile | 1 ml | C(C1=CC=CC=C1)#N | C7H5N
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | 1-methylsulfinyl-1-(p-tolylthio)-2-amino-2-phenylethylene | 1.212 g | CS(=O)C(=C(C1=CC=CC=C1)N)SC1=CC=C(C=C1)C | C16H17NOS2
